US06649728B2
To 1,581.5 g (0.859 mole) of 8.92 weight percent triethylmethylphosphonium hydroxide aqueous solution prepared as above, 180.45 g (0.863 mole) of 42% fluoroboric acid was added. The resulting transparent and colorless solution was stirred at a room temperature of 28° C. for 1 hour. The solution was concentrated using a rotary evaporator under a reduced pressure to obtain 406.2 g of slurry. The slurry was cooled at 15° C. for about 2 hours, and was filtered to recover white crystals (189.63 g). The crystals were dried at 110° C. overnight to yield 168.40 g of triethylmethylphosphonium tetrafluoroborate. The Br ion concentration determined by silver nitrate titration was 4 ppm.

reactant | triethylmethylphosphonium hydroxide | [OH-].C(C)[P+](C)(CC)CC
reactant | fluoroboric acid | 0.863 mole, 180.45 g | F[B-](F)(F)F.[H+]
product | triethylmethylphosphonium tetrafluoroborate | 168.40 g | F[B-](F)(F)F.C(C)[P+](C)(CC)CC | InChI=1S/C7H18P.BF4/c1-5-8(4,6-2)7-3;2-1(3,4)5/h5-7H2,1-4H3;/q+1;-1
